US06642389B2
In analogy to the procedure described in example 21 f], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 129 c]) was reacted with [2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-methanol (R. C. Self, W. E. Barber, J. P. Machin, J. M. Osbond, C. E. Smithen, B. P. Tong, J. C. Wickens, D. P. Bloxham, D. Bradshaw, C. H. Cashin, B. B. Dodge, E. J. Lewis, D. Westmacott, J. Med. Chem. 1991, 34, 772-777) in the presence of triphenylphosphine and diethyl azodicarboxylate to yield [rac]-3-{4-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 120 f] to yield [rac]-3-{4-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | [2-(4-chloro-phenyl)-5-methyl-oxazol-4-yl]-methanol | ClC1=CC=C(C=C1)C=1OC(=C(N1)CO)C | C11H10ClNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-3-{4-[2-(4-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)Cl)C)OCC)=O | C25H28ClNO5
